US08580957B2
A mixture of myristic acid (87 mg, 0.381 mmol), copper(II) acetate (23.04 mg, 0.127 mmol) and (cis)-1-acetyl-6-bromo-2-ethyl-1,2,3,4-tetrahydro-4-quinolinamine (for a preparation see intermediate 91) (377 mg, 1.269 mmol), phenylboronic acid (232 mg, 1.903 mmol) in toluene (12 mL) was treated with 2,6-lutidine (0.207 mL, 1.776 mmol). The resulting mixture was stirred vigorously in air for 72 h then was partitioned between AcOEt (50 mL) and a saturated NaHCO3 aqueous solution (25 mL). The layers were separated and the organic phase was dried over Na2SO4 and concentrated in vacuovacuo. Purification of the residue by SP4 using a 25 G silica cartridge (gradient:0 to 100% AcOEt in Hexanes) gave (cis)-1-acetyl-6-bromo-2-ethyl-N-phenyl-1,2,3,4-tetrahydro-4-quinolinamine (139 mg, 0.37 mmol, 29%) as a pale yellow oil which solidified on standing.

reactant | myristic acid | 0.381 mmol, 87 mg | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | (cis)-1-acetyl-6-bromo-2-ethyl-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)N)CC | C13H17BrN2O
reactant | phenylboronic acid | 1.903 mmol, 232 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2,6-lutidine | 1.776 mmol, 0.207 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(II) acetate | 0.127 mmol, 23.04 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (cis)-1-acetyl-6-bromo-2-ethyl-N-phenyl-1,2,3,4-tetrahydro-4-quinolinamine | 0.37 mmol, 139 mg, 29% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)NC1=CC=CC=C1)CC | C19H21BrN2O
